US08044041B2
A mixture of 2-((R)-3-methyl-piperazin-1-yl)-benzonitrile (542 mg, 2.69 mmol), Raney Nickel (3 mL of a slurry in water), ammonia (15 mL, 2M solution in EtOH) was evacuated and flushed with H2, then stirred at room temperature for 3 h. The reaction mixture was filtered through celite, rinsed with MeOH, concentrated and dried in vacuum to afford 2-((R)-3-methyl-piperazin-1-yl)-benzylamine (526 mg) as an orange viscous oil. m/z (M+1) 206.29.

reactant | 2-((R)-3-methyl-piperazin-1-yl)-benzonitrile | 2.69 mmol, 542 mg | C[C@@H]1CN(CCN1)C1=C(C#N)C=CC=C1 | C12H15N3
reactant | ammonia | 2M, 15 mL | N | H3N
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
product | 2-((R)-3-methyl-piperazin-1-yl)-benzylamine | 526 mg | C[C@@H]1CN(CCN1)C1=C(CN)C=CC=C1 | C12H19N3
